US07067570B2
Triethyl phosphite:
(PhO)3P, diphenylmono(2-ethylhexyl) phosphite: (PhO)2(MeC3H6CH(Et)CH2O)P, tris(2,4-di-tert-butylphenyl) phosphite:

reactant | (PhO)3P | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | tris(2,4-di-tert-butylphenyl) phosphite | P(OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C)(OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C)OC1=C(C=C(C=C1)C(C)(C)C)C(C)(C)C | C42H63O3P
product | Triethyl phosphite | P(OCC)(OCC)OCC | C6H15O3P
